US09388185B2
Step 2. 1-(4-(2-(3,5-Dimethoxyphenethyl)-5H-pyrrolo[2,3-b]pyrazin-6-yl)phenyl)piperidin-4-ol
The compound was prepared by using procedure analogous to those described for the synthesis of Example 53, Step 2 starting from 6-bromo-2-[2-(3,5-dimethoxyphenyl)ethyl]-5H-pyrrolo[2,3-b]pyrazine and 1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)piperidin-4-ol. LCMS calculated for C27H31N4O3(M+H)+: m/z=459.2. Found 459.3.

reactant | 6-bromo-2-[2-(3,5-dimethoxyphenyl)ethyl]-5H-pyrrolo[2,3-b]pyrazine | BrC1=CC=2C(=NC=C(N2)CCC2=CC(=CC(=C2)OC)OC)N1 | C16H16BrN3O2
reactant | 1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)piperidin-4-ol | CC1(OB(OC1(C)C)C1=CC=C(C=C1)N1CCC(CC1)O)C | C17H26BNO3
product | 1-(4-(2-(3,5-Dimethoxyphenethyl)-5H-pyrrolo[2,3-b]pyrazin-6-yl)phenyl)piperidin-4-ol | COC=1C=C(CCC=2N=C3C(=NC2)NC(=C3)C3=CC=C(C=C3)N3CCC(CC3)O)C=C(C1)OC | C27H30N4O3
